US07838674B2
3-(4-fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaboro-lan-2-yl)-pyridine
3-Bromo-5-(4-fluorophenyl)pyridine (Small Molecules Product List 12-1489) is treated with bis(pinacolato)diboron (Frontier Scientific Catalog D6878) in analogy to Example 135b and delivers the title compound as brownish resin (130 mg) used in Example 136 without further purification.

reactant | 3-Bromo-5-(4-fluorophenyl)pyridine | BrC=1C=NC=C(C1)C1=CC=C(C=C1)F | C11H7BrFN
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-(4-fluoro-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaboro-lan-2-yl)-pyridine | FC1=CC=C(C=C1)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C17H19BFNO2
